US04746669
Step B: Preparation of (2-pyrryl)methyltrimethylammonium iodide
To a cold solution of 67 g (0.47 mole) of methyliodide in 150 ml of anhydrous ether was added slowly a dry ether solution of 50 gm of 2-(N,N-dimethylaminomethyl)pyrrole (0.37 mole). A white solid begain to precipitate out of solution. The mixture was heated to 30° for 1.5 hours, filtered and washed with 2/×30 ml of ether to obtain 59 gm of 2-pyrryl)methyltrimethylammonium iodide which was used in the next step without further purification.

reactant | methyliodide | 0.47 mole, 67 g | CI | CH3I
reactant | 2-(N,N-dimethylaminomethyl)pyrrole | 0.37 mole, 50 gm | CN(C)CC=1NC=CC1 | C7H12N2
solvent | ether | 150 ml | CCOCC | C4H10O
product | (2-pyrryl)methyltrimethylammonium iodide | [I-].N1C(=CC=C1)C[N+](C)(C)C | InChI=1S/C8H15N2.HI/c1-10(2,3)7-8-5-4-6-9-8;/h4-6,9H,7H2,1-3H3;1H/q+1;/p-1
